US08198479B2
Catalysts containing 3% iron were prepared generally in accordance with the method described in Example 50. A particulate carbon support (10 g) having a Langmuir surface area of approximately 1500 m2/g described in Example 50 was was added to a 1 liter flask containing deionized water (400 ml) to form a slurry. Iron chloride (FeCl3.H2O) (1.497 g) (available from Aldrich Chemical Co., Milwaukee, Wis.) was introduced to 60 ml of a 50/50 (v/v) mixture of diglyme (diethylene glycol dimethyl ether) (also available from Aldrich Chemical Co., Milwaukee, Wis.) and deionized water in a 100 ml beaker. The iron-diglyme mixture was added to the carbon slurry incrementally over the course of approximately 30 minutes (i.e., at a rate of approximately 2 ml/minute) to produce an iron-diglyme-carbon mixture. The pH of the carbon slurry was maintained at from about 4.0 and about 4.4 during addition of the iron-diglyme mixture to the carbon slurry by co-addition of sodium hydroxide solution (Aldrich Chemical Co., Milwaukee, Wis.). The iron-diglyme-carbon mixture was stirred using a mechanical stirring rod operating at 50% of output (Model IKA-Werke RW16 Basic) for approximately 30 minutes; the pH of the mixture was monitored using the pH meter and maintained at approximately 4.4 by dropwise addition of 0.1 wt. % sodium hydroxide. The mixture was then heated under a nitrogen blanket to approximately 70° C. at a rate of approximately 2° C. per minute while maintaining the pH at approximately 4.4 by dropwise addition of 0.1 wt. % sodium hydroxid. Upon reaching approximately 70° C., the pH of the mixture was raised by addition of a 0.1 wt. % sodium hydroxide solution according to the following pH profile: 10 minutes at pH of approximately 5.0, 20 minutes at pH of approximately 5.5, followed by continued stirring at pH of 6.0 until the pH became relatively constant. The resulting mixture was filtered and washed with a plentiful amount of deionized water and the wet cake was dried for approximately 16 hours in a vacuum oven at 120° C. to provide a catalyst precursor. Iron-containing catalyst precursor (5 g) was charged into the Hastelloy C tube reactor and heat treated as described above regarding preparation of the cobalt-containing catalysts. A catalyst containing 3% iron was also prepared using this method using polyglyme in place of diglyme. (Entries 1 and 2 in Table 31)

reactant | iron | [Fe] | Fe
reactant | Iron chloride | 1.497 g | [Fe](Cl)Cl
reactant | iron diglyme | [Fe].COCCOCCOC
solvent | water | O | H2O
solvent | diglyme | COCCOCCOC | C6H14O3
solvent | water | 400 ml | O | H2O
product | iron diglyme carbon | [Fe].COCCOCCOC.[C] | InChI=1S/C6H14O3.C.Fe/c1-7-3-5-9-6-4-8-2;;/h3-6H2,1-2H3;;
